US07265104B2
To a solution of 4-ethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Preparation 3(A) (5.0 g, 24.5 mmol) in DMF (100 mL) was added potassium bistrimethyl silyl amide (49 mL of 0.5 M solution in toluene, 24.5 mmol) at 0° C. The reaction mixture was stirred for 20 minutes and was cooled to −17° C. A solution of 2-bromo-N-isopropyl-N-phenyl-acetamide (Preparation 1 (A) (6.9 g, 27 mmol) in DMF (50 mL) was added dropwise so the internal temperature remained below −15° C. The reaction mixture was stirred at −16° C. for 1 hour, was warmed to room temperature and was diluted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and was concentrated. The resulting pale brown solid was triturated with ether to obtain 3.2 g of 2-(4-ethoxy-2-oxo-2,3-dihydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide as a white powder. The filtrate was concentrated and the residue was triturated with ether/hexanes. The solid was collected by filtration to give a second crop of 2-(4-ethoxy-2-oxo-2,3-dihydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide (3.4 g). MS 380.2 (M+1).

reactant | 4-ethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)OC1=NC2=C(NC(C1)=O)C=CC=C2 | C11H12N2O2
reactant | 2-bromo-N-isopropyl-N-phenyl-acetamide | BrCC(=O)N(C1=CC=CC=C1)C(C)C | C11H14BrNO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-ethoxy-2-oxo-2,3-dihydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl-acetamide | 3.2 g | C(C)OC1=NC2=C(N(C(C1)=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2 | C22H25N3O3
